US04307113
3 g. of 2-amino-α,α,α-trifluoro-p-toluic acid is dissolved in 20 ml. of acetic anhydride and the resultant solution is heated to 80° C. After 30 minutes at a temperature of 80° C., the excess acetic anhydride is removed from the reaction mixture on a rotary evaporator and water is added to the residue. The resultant precipitate is filtered, washed with water and dried to yield 2-acetamido-α,α,α-trifluoro-p-toluic acid (N-acetyl-4-trifluoromethylanthranilic acid), m.p. 195°-197° C.

reactant | 2-amino-α,α,α-trifluoro-p-toluic acid | NC1=C(C=CC(=C1)C(=O)O)C(F)(F)F | C8H6F3NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetamido-α,α,α-trifluoro-p-toluic acid | C(C)(=O)NC1=C(C=CC(=C1)C(=O)O)C(F)(F)F | C10H8F3NO3
